US08859544B2
6-[(1-Methoxy-2-phenylindolizin-3-yl)carbonyl]-2-phenyl-4H-3,1-benzoxazin-4-one
2.25 ml (16.12 mmol) of triethylamine and 3 g (13.44 mmol) of 1-methoxy-2-phenylindolizine (according to the method described in WO 03/084956) diluted in 20 ml of dichloroethane are added, under an inert atmosphere at ambient temperature, to 4.22 g (14.78 mmol) of 4-oxo-2-phenyl-4H-3,1-benzoxazine-6-carboxylic acid (described in WO 06/097625) in 100 ml of dichloroethane. After stirring overnight at ambient temperature, the reaction medium is filtered, and rinsed with dichloroethane. The filtrate is washed with water, dried over sodium sulphate, filtered, and concentrated under reduced pressure. The residue is filtered through a silica pâté, elution being carried out with dichloromethane. 4.4 g of a yellow solid are obtained.

reactant | triethylamine | 16.12 mmol, 2.25 ml | C(C)N(CC)CC | C6H15N
reactant | 1-methoxy-2-phenylindolizine | 13.44 mmol, 3 g | COC=1C(=CN2C=CC=CC12)C1=CC=CC=C1 | C15H13NO
reactant | 4-oxo-2-phenyl-4H-3,1-benzoxazine-6-carboxylic acid | 14.78 mmol, 4.22 g | O=C1OC(=NC2=C1C=C(C=C2)C(=O)O)C2=CC=CC=C2 | C15H9NO4
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
product | 6-[(1-Methoxy-2-phenylindolizin-3-yl)carbonyl]-2-phenyl-4H-3,1-benzoxazin-4-one | 4.4 g | COC=1C(=C(N2C=CC=CC12)C(=O)C=1C=CC2=C(C(OC(=N2)C2=CC=CC=C2)=O)C1)C1=CC=CC=C1 | C30H20N2O4
